* an upper-case call of a lower-case function name, under casemode=preserve
* doc/codex/issues/0020 gap 2, widened.  ft_substdef() (src/frontend/define.c)
* matched the typed name against the stored one with eq(), so a user-defined
* function answered only to the spelling it was defined with.  vm, vp and vdb
* are instances of that rather than its subject: ft_cpinit()'s udfs[] table
* (src/frontend/cpitf.c) installs them through com_define() itself, in lower
* case, so 'print VM(2)' under preserve reached
* 'Error: no such function as VM' -- a line tests/bin/check.sh's filter
* removes from both sides of the comparison, which is why the assertions here
* are values, and at the end the text of a 'define' listing, rather than the
* diagnostic itself.
*
* The lower-case call beside each upper-case one is the control: it resolved
* before this fix and it resolves after, so a run in which both lines are
* missing fails for a reason that is not case.  At 100 Hz with R = 1k and
* C = 1u, vm(2) = 1 / sqrt(1 + (2*pi*f*R*C)^2).
* doc/claude/decisions/0013-user-defined-function-identity.md.
.OPTIONS noacct
V1 1 0 ac 1
R1 1 2 1k
C1 2 0 1u
.control
ac lin 1 100 100
print VM(2)
print vm(2)
print VDB(2)
print vdb(2)
print VP(2)
print vp(2)
* a define of the user's own, called back in the other case
define ff(x) x*3
print FF(2)
print ff(2)
* a formal parameter spelled the other way in the same define's body.  Two
* tokens of one card, so this is the Class A site beside the three Class C
* ones and it takes ng_ideq(): before the fix the body's x was never
* substituted and hh(5) had no line
define hh(X) x*2
print hh(5)
* undefine resolves the name the same way, so gg is gone after it and the
* second print of gg(2) has no line of its own
define gg(x) x*5
print gg(2)
undefine GG
print gg(2)
* a define spelled the other way is reached by a call spelled either way,
* which is the resolution fix; the residue it leaves is the last three lines
* and is doc/codex/issues/0051.  com_define()'s replace-or-prepend lookup is
* a *prefix* test, and case-blinding a prefix test widens what it destroys --
* with ciprefix() there, 'define VD(x)' destroys the shipped vdb(x) -- so it
* is left byte exact, and VM(x) is prepended beside the shipped vm(x) instead
* of replacing it.  Both entries are listed by 'define vm', the newer one
* first, and print reaches the newer one whichever case it is asked for.  The
* lower twin, where the definition really does replace, lists two lines here
* and not three.  That is also why this deck and its twin report DIFF in
* doc/claude/scripts/case_differential_sweep.py and are meant to: the sweep's
* stock column folds the card and gets two lines.  Both entries clear when
* doc/codex/issues/0051 lands.
define VM(x) x*7
print vm(1)
define vm
.endc
.end
